US07601855B2
Step 3.1 acetic acid 3-(3,4-dimethoxy-phenyl)-8-methyl-4-oxo-4H-chromen-7-yl ester
3-(3,4-dimethoxy-phenyl)-7-hydroxy-8-methyl-chromen-4-one (9.82 g, 31 mmol), acetic anhydride (62 ml) and pyridine (6.2 ml) were combined in a round bottom flask and heated to reflux. The reaction was cooled to room temperature after 3 hours of heating, and a crystalline solid formed. The solid was filtered and rinsed with H2O (1 L). 1H NMR in d-CDCl3 indicated pale brown crystals was acetic acid 3-(3,4-dimethoxy-phenyl)-8-methyl-4-oxo-4H-chromen-7-yl ester in 90% purity (7.214 g, 71%).

reactant | 3-(3,4-dimethoxy-phenyl)-7-hydroxy-8-methyl-chromen-4-one | 31 mmol, 9.82 g | COC=1C=C(C=CC1OC)C1=COC2=C(C(=CC=C2C1=O)O)C | C18H16O5
reactant | acetic anhydride | 62 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6.2 ml | N1=CC=CC=C1 | C5H5N
product | acetic acid 3-(3,4-dimethoxy-phenyl)-8-methyl-4-oxo-4H-chromen-7-yl ester | COC=1C=C(C=CC1OC)C1=COC2=C(C(=CC=C2C1=O)OC(C)=O)C | C20H18O6
